US04061664
A mixture of 2,2,3,3-tetramethylcyclopropane carboxylic acid (7.8g, 0.055M), potassium carbonate (3.8g, 0.0275M) water (40 mls), tetrabutylammonium bromide (1.5g, 10 mole %), alpha-cyano-3-phenoxybenzyl bromide (14.4g, 0.05 mole) and toluene (50 ml) was stirred at 25° C for 5 hours. The aqueous phase was separated and the toluene layer washed twice with 5% potassium carbonate solution and twice with water. The solution was filtered through a pad of silica-gel (3g) and evaporated to leave a pale-yellow oil (17.4g; purity = 92%). Recrystallisation of this material from hexane gave pure alpha-cyano-3-phenoxybenzyl 2,2,3,3-tetramethylcyclopropane carboxylate, melting point 50°-51° C.

reactant | 2,2,3,3-tetramethylcyclopropane carboxylic acid | 0.055M, 7.8g | CC1(C(C1(C)C)C(=O)O)C | C8H14O2
reactant | potassium carbonate | 0.0275M, 40 mls, 3.8g | C([O-])([O-])=O.[K+].[K+]
reactant | alpha-cyano-3-phenoxybenzyl bromide | 0.05 mole, 14.4g | C(#N)C(C1=CC(=CC=C1)OC1=CC=CC=C1)Br | C14H10BrNO
catalyst | tetrabutylammonium bromide | 1.5g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | alpha-cyano-3-phenoxybenzyl 2,2,3,3-tetramethylcyclopropane carboxylate | CC1(C(C1(C)C)C(=O)OC(C1=CC(=CC=C1)OC1=CC=CC=C1)C#N)C | C22H23NO3
